US05994312
(RS)-(1,1-Dimethylethyl) 2,4-dibromobutyrate
Bromine (31.3 ml, 0.54 mol) was added dropwise over 4h at 100° C. to neat stirring 4-bromobutyryl chloride (100 g, 0.54 mol). The resulting acid chloride was cooled then added dropwise at 0° C. to a stirred solution of tert-butanol (240 ml) and triethylamine (64 ml, 0,461 mol) in anhydrous dichloromethane (600 ml). 2M Hydrochloric acid was added and the layers separated. The organic portion was then washed sequentially with 10% sodium metabisulphite solution (2×500 ml), water (500 ml) and brine (500 ml), dried (MgSO4) and evaporated in vacuo to provide the title compound (120 g, 86%) as a brown liquid.

reactant | Bromine | 0.54 mol, 31.3 ml | BrBr | Br2
reactant | 4-bromobutyryl chloride | 0.54 mol, 100 g | BrCCCC(=O)Cl | C4H6BrClO
reactant | triethylamine | 0,461 mol, 64 ml | C(C)N(CC)CC | C6H15N
reactant | Hydrochloric acid | 2M | Cl | ClH
reactant | tert-butanol | 240 ml | C(C)(C)(C)O | C4H10O
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | (RS)-(1,1-Dimethylethyl) 2,4-dibromobutyrate | 120 g, 86% | BrC(C(=O)OC(C)(C)C)CCBr | C8H14Br2O2
